US07700598B2
96d methyl(R)-3-(3-chloro-4-methyl-phenyl)-2-hydroxy-propionate
2.0 mL (27.4 mmol) SOCl2 were slowly added dropwise to a solution of 2.8 g (10.4 mmol) of (R)-3-(3-chloro-4-methyl-phenyl)-2-hydroxy-propionic acid in 100 mL MeOH while cooling with ice and the reaction solution was stirred for 1 h at 0° C. and for 1 h at RT. The reaction mixture was evaporated down i.vac., the residue was taken up in EtOAc, the organic phase was washed with saturated NaHCO3 solution and dried over Na2SO4. After the desiccant and solvent had been eliminated the residue was purified by chromatography (silica gel, gradient DCM to DCM/MeOH 50:1).

reactant | SOCl2 | 27.4 mmol, 2.0 mL | O=S(Cl)Cl | Cl2OS
reactant | (R)-3-(3-chloro-4-methyl-phenyl)-2-hydroxy-propionic acid | 10.4 mmol, 2.8 g | ClC=1C=C(C=CC1C)C[C@H](C(=O)O)O | C10H11ClO3
reactant | MeOH | 100 mL | CO | CH4O
product | methyl(R)-3-(3-chloro-4-methyl-phenyl)-2-hydroxy-propionate | ClC=1C=C(C=CC1C)C[C@H](C(=O)OC)O | C11H13ClO3
